US07423031B2
To a solution of 4-(2-amino-3H-imidazol-4-yl)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one, prepared as in reference 2, (38 mg, 0.13 mmol) in AcOH (3 mL) is added NaOAc trihydrate (86 mg, 0.63 mmol). A solution of Br2 (40 mg, 0.25 mmol) in AcOH (1 mL) is added drop-wise, the mixture is stirred for an additional 30 minutes and concentrated. The residue is purified by HPLC (C18 column, eluted with CH3CN—H2O containing 0.05% TFA) to give 4-(2-amino-5-oxo-3,5-dihydro-imidazol-4-ylidene)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one; 1H NMR (DMSO-d6) δ 3.18-3.26 (m, 2H), 3.26-3.32 (m, 2H), 8.09 (t, 1H, J=4.8 Hz), 8.68 (s, 1H), 9.37 (s, 2H), 11.11 (s, 1H), 13.46 (s, 1H); m/z [M++1] 314.0.

reactant | 4-(2-amino-3H-imidazol-4-yl)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one | NC1=NC=C(N1)C1C2=C(C(NCC1)=O)NC(=C2Cl)Cl | C11H11Cl2N5O
reactant | Br2 | 0.25 mmol, 40 mg | BrBr | Br2
reactant | AcOH | 3 mL | CC(=O)O | C2H4O2
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 4-(2-amino-5-oxo-3,5-dihydro-imidazol-4-ylidene)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one | NC1=NC(C(N1)=C1C2=C(C(NCC1)=O)NC(=C2Cl)Cl)=O | C11H9Cl2N5O2
